US04224327
4-(N-oxidopyridyl-3-methyl)thiopyrimidine
11.2 g (0.1 moles) 4-mercaptopyrimidine is dissolved in 100 ml ethanol containing 10.8 g sodium methoxide. 18 g (0.1 moles) 3-chloromethylpyridine-N-oxide hydrochloride is added; the mixture is heated under reflux for about one hours. The solution is cooled to ambient temperature, the sodium chloride filtered off, and the filtrate evaporated under vacuum to eliminate the solvent. The residue is crystallized from ethyl acetate to give 15.35 g of product (M.P.=105°-108° C.; yield=70%).

reactant | 4-mercaptopyrimidine | 0.1 moles, 11.2 g | SC1=NC=NC=C1 | C4H4N2S
reactant | 3-chloromethylpyridine-N-oxide hydrochloride | 0.1 moles, 18 g | Cl.ClCC=1C=[N+](C=CC1)[O-]
solvent | ethanol | 100 ml, 10.8 g | C(C)O | C2H6O
product | 4-(N-oxidopyridyl-3-methyl)thiopyrimidine | 15.35 g, yield=70% | C1=CC(=C[N+](=C1)[O-])CSC2=NC=NC=C2 | C10H9N3OS
